US09371314B2
To the degassed mixture of 2-amino-3-iodpyridine (1.12 g, 5.09 mmol, 1 eq), 2-(dihydroxyboryl)-1-benzothiophene-5-carboxylic acid, [2-(dihydroxyboryl)-1-benzothiophene-5-carboxylic acid (1.3 g, 1.15 eq)], and aqueous sodium carbonate (2M, 7.6 mL, 3 eq) in dioxane (10 mL) was added Ph3P (267 mg, 0.2 eq) and Pd(OAc)2 (114.3 mg, 0.1 eq). The mixture was heated to 50° C. with vigorous stirring for 30 minutes. The yellow mixture was then partitioned between aq NH4Cl and MeOH—CHCl3 (1:5). Some solids precipitation was observed. After the pH was carefully adjusted to around 6, the whole mixture was filtered through a Buchner funnel to obtain a yellow solid. The solid was further triturated with MeOH/H2O to give 2-(2-aminopyridin-3-yl)-1-benzothiophene-5-carboxylic acid as a white-off solid in amount of 1.18 g after dried in vacuo (86%).

reactant | 2-amino-3-iodpyridine | 5.09 mmol, 1.12 g, 1 eq | NC1=NC=CC=C1I | C5H5IN2
reactant | 2-(dihydroxyboryl)-1-benzothiophene-5-carboxylic acid | 1.3 g, 1.15 eq | OB(C=1SC2=C(C1)C=C(C=C2)C(=O)O)O | C9H7BO4S
reactant | sodium carbonate | 2M, 7.6 mL, 3 eq | C([O-])([O-])=O.[Na+].[Na+]
reactant | Ph3P | 267 mg, 0.2 eq | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(OAc)2 | 114.3 mg, 0.1 eq | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 2-(2-aminopyridin-3-yl)-1-benzothiophene-5-carboxylic acid | NC1=NC=CC=C1C=1SC2=C(C1)C=C(C=C2)C(=O)O | C14H10N2O2S
